US08252814B2
8-[2-fluoro-3-[1-[(3-fluorophenyl)methyl]-4-piperidinyl]-1-oxopropyl]-1,2,5,6-tetrahydro-4H-pyrrolo[3,2,1-ij]quinolin-4-one
Into a nitrogen-flushed, three-necked flask, a solution of 1,1,1,3,3,3-hexamethyldisilazane (1.38 g, 8.60 mmol) in tetrahydrofuran (50 ml) was placed and the resulting mixture was cooled in a dry ice/acetone bath. Thereto was added dropwise a solution of n-butyl lithium in hexane (1.6 M)(5.4 ml, 8.6 mmol) and then the resulting solution was stirred at −20° C. for 10 minutes. To this solution, which was cooled again in a dry ice/acetone bath, was added dropwise a solution of 8-[3-[1-[(3-fluorophenyl)methyl]-4-piperidinyl]-1-oxopropyl]-1,2,5,6-tetrahydro-4H-pyrrolo-[3,2,1-ij]quinolin-4-one (3.0 g, 7.1 mol), which was obtained in Example 1, in tetrahydrofuran (20 ml). The resulting mixture was stirred at −20° C. for 20 minutes and then cooled again in a dry ice/acetone bath. To this solution was added dropwise a solution of N-fluorobenzenesulfonimide (1.38 g, 8.6 mmol) in tetrahydrofuran (20) and the temperature was gradually raised to room temperature. The reaction mixture was mixed with water and was extracted with ethyl acetate. Then, the organic layer was washed with a saturated aqueous solution of sodium chloride, dried with anhydrous sodium sulfate, and concentrated to remove the solvent. The resulting residue was purified by column chromatography on silica gel (eluent: ethyl acetate) to obtain of the title substance as a colorless oily substance (42 mg).

reactant | 1,1,1,3,3,3-hexamethyldisilazane | 8.60 mmol, 1.38 g | C[Si](N[Si](C)(C)C)(C)C | C6H19NSi2
reactant | n-butyl lithium | C(CCC)[Li]
reactant | hexane | 8.6 mmol, 1.6 M, 5.4 ml | CCCCCC | C6H14
reactant | 8-[3-[1-[(3-fluorophenyl)methyl]-4-piperidinyl]-1-oxopropyl]-1,2,5,6-tetrahydro-4H-pyrrolo-[3,2,1-ij]quinolin-4-one | 7.1 mol, 3.0 g | FC=1C=C(C=CC1)CN1CCC(CC1)CCC(=O)C=1C=C2CCC(N3C2=C(C1)CC3)=O | C26H29FN2O2
reactant | N-fluorobenzenesulfonimide | 8.6 mmol, 1.38 g | C1=CC=C(C=C1)S(=O)(=O)N(F)S(=O)(=O)C2=CC=CC=C2 | C12H10FNO4S2
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | 8-[2-fluoro-3-[1-[(3-fluorophenyl)methyl]-4-piperidinyl]-1-oxopropyl]-1,2,5,6-tetrahydro-4H-pyrrolo[3,2,1-ij]quinolin-4-one | FC(C(=O)C=1C=C2CCC(N3C2=C(C1)CC3)=O)CC3CCN(CC3)CC3=CC(=CC=C3)F | C26H28F2N2O2
